US04670600
To a stirred mixture of 264 g. of 2-amino-4methylbenzonitrile, 504 g. of phthalic acid and 2.32 liters of reagent grade acetone is added 80 g. of sodium borohydride portionwise over 40 minutes at a temperature of 18°-30° C. The resulting solution is stirred for 30 minutes during which the temperature rises from 29°-30° C. to 35° C. and then dropped to 34° C. The resulting solution is then heated from 34° C. to 53° C. over a period of 30 minutes and their maintained at 55° C. for one hour. The mixture is cooled to 37° C., 500 ml. of water added followed by addition of 417 g. of 50% aqueous sodium hydroxide, after which the temperature is allowed to rise to 56° C. to maintain the solution. An additional 92 ml. of water is added and the acetone and aqueous salt layers separated at 45°-50° C. The acetone layer is concentrated in vacuo to obtain a brown oil and salt solution which is diluted with 800 ml. of heptane and the aqueous and heptane layers separated. The heptane layer is dried, filtered and cooled to 10° C. to obtain the major portion of the desired 2-isopropylamino-4-methylbenzonitrile, m.p. 55°-57° C. Additional product is also recovered from the mother liquor and phthalic acid is recovered to a high degree from aqueous salt layer above referred after dilution with a total of 4.5 liters of water, filtering and acidifying with sulfuric acid (other aqueous alkaline solutions obtained in the work up being combined with said aqueous salt layer).

reactant | 2-amino-4methylbenzonitrile | NC1=C(C#N)C=CC(=C1)C | C8H8N2
reactant | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2-isopropylamino-4-methylbenzonitrile | C(C)(C)NC1=C(C#N)C=CC(=C1)C | C11H14N2
